US08039493B2
In analogy to example 1, step 1, isobutylamine was reacted with 2-chlorobenzenesulfonyl chloride and N,N-diisopropyl ethyl amine in dichloromethane to give 2-chloro-N-isobutyl-benzenesulfonamide as a colorless solid. MS: 248.1 ([M+H]+)

reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | 2-chlorobenzenesulfonyl chloride | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | N,N-diisopropyl ethyl amine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-chloro-N-isobutyl-benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)NCC(C)C | C10H14ClNO2S
